US07238716B2
A mixture of ethyl 3-(2-hydroxy-4-methoxymethoxyphenyl)propionate (6.00 g), ethyl iodide (5.52 g), anhydrous potassium carbonate (3.26 g) and N,N-dimethylformamide (50 mL) was stirred at room temperature for 13 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give an oil. A mixture of the obtained oil, 10% aqueous sulfuric acid solution (10 mL) and ethanol (300 mL) was stirred with heating under reflux for 6 hrs. The reaction mixture was concentrated under reduced pressure and the residue was diluted with water, and then basified with a saturated aqueous sodium hydrogencarbonate. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography to give ethyl 3-(2-ethoxy-4-hydroxyphenyl)propionate as a colorless oil (3.58 g, 64%) from a fraction eluted with ethyl acetate-hexane (1:6, v/v).

reactant | ethyl 3-(2-hydroxy-4-methoxymethoxyphenyl)propionate | 6.00 g | OC1=C(C=CC(=C1)OCOC)CCC(=O)OCC | C13H18O5
reactant | ethyl iodide | 5.52 g | C(C)I | C2H5I
reactant | potassium carbonate | 3.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | ethyl 3-(2-ethoxy-4-hydroxyphenyl)propionate | 3.58 g, 64% | C(C)OC1=C(C=CC(=C1)O)CCC(=O)OCC | C13H18O4
